US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-dimethylphenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.5 g--see Preparation 8), 3,4-dimethylphenethyl bromide (0.4 g--see Preparation 18), anhydrous potassium carbonate (0.5 g) and acetonitrile (10 ml) was heated under reflux for 2 hours. On cooling to room temperature, water (80 ml) was added and the mixture was extracted with dichloromethane (3×70 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a yellow oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 4%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield, 0.22 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.5 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 3,4-dimethylphenethyl bromide | 0.4 g | CC=1C=C(CCBr)C=CC1C | C10H13Br
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 80 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(3,4-dimethylphenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC(=C(C=C1)C)C | C28H32N2O
